US06057322
b) Methyl 4-bromo-2-methyl-5-nitrobenzoate
14.3 g of 4-bromo-2-methyl-5-nitrobenzoic acid were dissolved in 250 ml of MeOH and 11.6 g of SOCl2 were slowly added dropwise. The mixture was allowed to stand at RT for 5 days, the volatile components were removed in vacuo and the residue is recrystallized from DIP.

reactant | 4-bromo-2-methyl-5-nitrobenzoic acid | 14.3 g | BrC1=CC(=C(C(=O)O)C=C1[N+](=O)[O-])C | C8H6BrNO4
reactant | SOCl2 | 11.6 g | O=S(Cl)Cl | Cl2OS
reactant | MeOH | 250 ml | CO | CH4O
product | Methyl 4-bromo-2-methyl-5-nitrobenzoate | BrC1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])C | C9H8BrNO4
